### PR TITLE
[Merged by Bors] - chore(Data/Fin/Tuple): generalize `Type` to `Sort`

### PR DESCRIPTION
**Pull request by quangvdao**
Generalize definitions and theorems in `Data/Fin/Tuple/Basic` to take in `Sort` by default instead of `Type`.

The exceptions are theorems that interact with existing type classes such as `Preorder`, `Prod`, and `Set`, which expect `Type`.

For instance, the following is added specifically for some theorems about `Preorder`:

```lean4
variable {α : Fin (n + 1) → Type*}
-- instead of variable {α : Fin (n + 1) → Sort*}
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by YaelDillies — APPROVED** [review]
All looks good to me. Thanks for spotting! However continuous integration is not passing yet, can you fix?

**Comment by YaelDillies** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
You also modified some `α` to `{α : Fin (n + 1) → Type*}`, right?

**Comment by quangvdao** [comment]
> You also modified some `α` to `{α : Fin (n + 1) → Type*}`, right?

Yes, for theorems that need such a condition, such as those involving `PreOrder`.

**Comment by riccardobrasca** [comment]
> > You also modified some `α` to `{α : Fin (n + 1) → Type*}`, right?
> 
> Yes, for theorems that need such a condition, such as those involving `PreOrder`.

Can you say this in the PR description? Thanks!

bors d+

File: Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean [hunk 1]
```diff
@@ -302,7 +302,7 @@ noncomputable def fslope (p : FormalMultilinearSeries 𝕜 𝕜 E) : FormalMulti
 theorem coeff_fslope : p.fslope.coeff n = p.coeff (n + 1) := by
   simp only [fslope, coeff, ContinuousMultilinearMap.curryLeft_apply]
   congr 1
-  exact Fin.cons_self_tail 1
+  exact Fin.cons_self_tail (fun _ => (1 : 𝕜))
```
Comment (b-mehta) [inline Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean:305]: Why is this change needed? I certainly hope that the generalisation of Type to Sort doesn't stop me from writing `1` for the constantly one function!

Comment (quangvdao) [reply Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean:305]: Here is the error after changing `Type` to `Sort`:
```lean4
numerals are data in Lean, but the expected type is universe polymorphic and may be a proposition
  (i : Fin (?m.430908 + 1)) → ?m.430909 i : Sort (imax 1 ?u.430907)
```
Perhaps others could weigh in on whether my changes are really necessary, or maybe I should revert some (all) of them?

@eric-wieser also had some concerns in [this thread](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/.60Fin.2Etake.60.3F/near/472897132)
